### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Limits/Sifted): characterization of sifted categories

### PR DESCRIPTION
**Pull request by robin-carlier**
Characterize small sifted as those for which the `Type`-valued colimit functor preserves finite product. Deduce that filtered categories, and that categories admitting a final functor from a sifted categories are also sifted.

---

Second part of what used to be #17554. The core of the proof relies on a few private lemmas/defs (`colimBoxIsoColimTensColim` and `factorization_prod_comparison_colim` being the most important ones) and I don’t know if that can be avoided.

I am still unsure wether or not the part relating sifted categories to filtered categories should be split off in a different file to avoid importing `CategoryTheory/Limits/FilteredColimitCommutesFiniteLimit.lean` every time `CategoryTheory/Limits/Sifted.lean` is imported.
The fact that filtered categories are sifted can also be proved without the characterization in this PR (it reduces essentially to `IsFiltered.bowtie`), and so it could also stay in this file with less imports, but I find it nicer to do it using the characterization.

- [x] depends on: #17766 
- [x] depends on: #17779  
- [x] depends on: #25732 
- [x] depends on: #25734 
- [x] depends on: #25731 
- [x] depends on: #24735 

[Open in Gitpod](https://gitpod.io/from-referrer/)

---

*This PR continues the work from #17781.*

*Original PR: https://github.com/leanprover-community/mathlib4/pull/17781*

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/CategoryTheory/Limits/Sifted.lean [hunk 1]
```diff
@@ -114,4 +126,154 @@ instance [F.Final] [G.Final] : (F.prod' G).Final :=
...
+section
+
+open scoped MonoidalCategory.ExternalProduct
+
+variable (X Y : C ⥤ Type u)
+
+/-- Through the isomorphisms `PreservesColimit₂.isoColimitUncurryWhiskeringLeft₂` and
+`externalProductCompDiagIso`, the comparison map `colimit.pre (X ⊠ Y) (diag C)` identifies with the
+product comparison map for the colimit functor. -/
+lemma factorization_prod_comparison_colim :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Sifted.lean]:
```suggestion
lemma factorization_prodComparison_colim :
```

File: Mathlib/CategoryTheory/Limits/Sifted.lean [hunk 2]
```diff
@@ -114,4 +126,154 @@ instance [F.Final] [G.Final] : (F.prod' G).Final :=
...
+    _ ≅ PUnit ⊗ PUnit := (Coyoneda.colimitCoyonedaIso _) ⊗ᵢ (Coyoneda.colimitCoyonedaIso _)
+    _ ≅ PUnit := λ_ _
+
+lemma isSiftedOrEmpty_of_colim_preservesFiniteProducts
+    [h : PreservesFiniteProducts (colim : (C ⥤ Type u) ⥤ Type u)] :
+    IsSiftedOrEmpty C := by
+  rcases Finite.exists_equiv_fin WalkingPair with ⟨_, ⟨e⟩⟩
+  haveI : PreservesLimitsOfShape (Discrete WalkingPair) (colim : (C ⥤ _) ⥤ Type u) :=
+    preservesLimitsOfShape_of_equiv (Discrete.equivalence e.symm) _
+  exact isSiftedOrEmpty_of_colim_preservesBinaryProducts
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Sifted.lean]:
```suggestion
    IsSiftedOrEmpty C :=
  isSiftedOrEmpty_of_colim_preservesBinaryProducts
```

File: Mathlib/CategoryTheory/Limits/Sifted.lean [hunk 3]
```diff
@@ -114,4 +126,154 @@ instance [F.Final] [G.Final] : (F.prod' G).Final :=
...
+    intro _
+    exact isLimitChangeEmptyCone _ Types.isTerminalPunit _ <| Iso.refl _
+
+/-- If the `colim` functor `(C ⥤ Type) ⥤ Type` preserves finite products, then `C` is sifted. -/
+theorem of_colim_preservesFiniteProducts
+    [h : PreservesFiniteProducts (colim : (C ⥤ Type u) ⥤ Type u)] :
+    IsSifted C := by
+  have := @isSiftedOrEmpty_of_colim_preservesFiniteProducts _ _ h
+  have := @nonempty_of_colim_preservesLimitsOfShapeFinZero _ _ (h.preserves 0)
+  constructor
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Sifted.lean:245]: It would be a good idea to make `C` an explicit parameter:
```suggestion
    IsSifted C := by
  have := nonempty_of_colim_preservesLimitsOfShapeFinZero (C := C)
  have := isSiftedOrEmpty_of_colim_preservesFiniteProducts (C := C)
```

File: Mathlib/CategoryTheory/Limits/Sifted.lean [hunk 4]
```diff
@@ -114,4 +126,154 @@ instance [F.Final] [G.Final] : (F.prod' G).Final :=
...
+    {D : Type u} [SmallCategory.{u} D] [IsSifted C] (F : C ⥤ D) [Final F] : IsSifted D := by
+  refine @of_colim_preservesFiniteProducts _ _ (⟨fun n => ⟨fun {K} ↦ ?_⟩⟩)
+  let colimCompIso :
+      (whiskeringLeft _ _ _).obj F ⋙ colim (J := C) (C := Type _) ≅ colim (J := D) :=
+    NatIso.ofComponents
+      (fun c ↦ Final.colimitIso F _)
+      (fun _ ↦ by
+        apply colimit.hom_ext
+        simp [comp_obj, ι_colimMap, ι_colimMap_assoc])
+  apply preservesLimit_of_natIso K colimCompIso
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Sifted.lean]:
```suggestion
  have : PreservesFiniteProducts (colim : (D ⥤ Type u) ⥤ _) :=
    ⟨fun n ↦ preservesLimitsOfShape_of_natIso (Final.colimIso F)⟩
  exact of_colim_preservesFiniteProducts
```

File: Mathlib/CategoryTheory/Limits/Sifted.lean [hunk 5]
```diff
@@ -114,4 +126,154 @@ instance [F.Final] [G.Final] : (F.prod' G).Final :=
...
+variable {C : Type u} [Category.{v} C]
+
+/-- A functor admitting a final functor from a sifted category is sifted. -/
+theorem IsSifted.of_final_functor_from_sifted {D : Type u₁} [Category.{v₁} D] [h₁ : IsSifted C]
+    (F : C ⥤ D) [Final F] : IsSifted D := by
+  rw [isSifted_iff_asSmallIsSifted] at h₁ ⊢
+  let : AsSmall.{max u₁ v₁} C ⥤ AsSmall.{max u v} D :=
+    AsSmall.equiv.inverse ⋙ F ⋙ AsSmall.equiv.functor
+  have _ : Final this := by infer_instance
+  apply of_final_functor_from_sifted' this
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Sifted.lean]:
```suggestion
  exact of_final_functor_from_sifted'
    (AsSmall.equiv.{_, _, max u₁ v₁}.inverse ⋙ F ⋙
      AsSmall.equiv.{_, _, max u v}.functor)
```

**Comment by robin-carlier** [comment]
Thanks @joelriou for taking the time to clean some of this up! I have implemented the suggestions.

**Comment by joelriou** [comment]
Thanks!

bors merge
